US05925658
(1S)-1-Methyl-2-nitroxyethylamine hydrochloride
In 80 ml of 4N hydrochloric acid-dioxane were dissolved 4.52 g of (1S)-N-(t-butoxycarbonyl)-1-methyl-2-nitroxyethylamine, and the mixture was left to stand at room temperature for 1 hour and 50 minutes. To the mixture were added 160 ml of ether, and the crystals were collected by filtration and dried to obtain 3.02 g of the desired compound as colorless crystals.

reactant | (1S)-N-(t-butoxycarbonyl)-1-methyl-2-nitroxyethylamine | 4.52 g | C(C)(C)(C)OC(=O)N[C@H](CO[N+](=O)[O-])C | C8H16N2O5
reactant | ether | 160 ml | CCOCC | C4H10O
reactant | hydrochloric acid dioxane | 4N, 80 ml | Cl.O1CCOCC1
product | (1S)-1-Methyl-2-nitroxyethylamine hydrochloride | 3.02 g | Cl.C[C@@H](CO[N+](=O)[O-])N | InChI=1S/C3H8N2O3.ClH/c1-3(4)2-8-5(6)7;/h3H,2,4H2,1H3;1H/t3-;/m0./s1
